Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
jaw pain, hand pain 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This is a ___ year-old female with a h/o CAD s/p MI in ___, DM, 
htn, hyperlipidemia, who presents with jaw pain and R hand pain 
for 1 week. She notes that approximately 1 week ago she began to 
notice L sided jaw pain. Around the same time, she also noted R 
hand pain. They did not always come on together but both began 
around the same time. She has had these symptoms off an on x 1 
wk. She denies any exertional component or associated chest 
pain, lightheadedness, nausea, diaphoresis, or SOB. She states 
that these symptoms are very similar to symptoms she had prior 
to her MI and subsequent stent placement in ___ at ___. The 
only difference is that these symptoms have been waxing and 
waning whereas prior, they were constant. 
 
Past Medical History:
PMH:
- CAD s/p MI ___
- DM2, last A1C 5.9% on ___, on Avandia, no insulin
- HTN
- hyperlipidemia
- obesity (usually around 240lbs)
- multichemical sensitivity (detergents, household products --> 
SOB or itchy)
- allergic rhinitis
- b/l hearing loss
- glaucoma
- osteoarthritis, worst in b/l knees
- s/p appendectomy 
- s/p hysterectomy ___ 
- G5P3
- ? GERD
- received Pneumovax: ___
 
Social History:
___
Family History:
FH: Non-contributory
 
Physical Exam:
VS - T 98.3 ; BP 157/75 ; HR 80 ; RR 18 ; O2sat 99% RA  
Gen: Obese. NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. OP clear.  
Neck: supple. Cannot appreciate JVP due to habitus.  
CV: RR, normal S1, S2. I/VI sys murmur at LUSB  
Chest: No chest wall deformities. Respirations were unlabored, 
no accessory muscle use. Clear to auscultation bilaterally, no 
crackles, wheezes or rhonchi.  
Abd: Obese. Soft, non-tender, non-distended. No HSM or 
tenderness.  
Ext: No clubbing, cyanosis or edema. Full distal pulses  
Skin: No stasis dermatitis, ulcers, scars, or xanthomas.  
.  
Pulses:  
Right: Radial 2+ DP 2+ ___ 2+  
Left: Radial 2+ DP 2+ ___ 2+  
.  

 
Pertinent Results:
___ 04:00AM BLOOD WBC-7.5 RBC-4.00* Hgb-12.6 Hct-35.9* 
MCV-90 MCH-31.4 MCHC-34.9 RDW-15.1 Plt ___
___ 04:00AM BLOOD Neuts-57.4 ___ Monos-6.2 Eos-1.9 
Baso-0.4
___ 04:00AM BLOOD Glucose-206* UreaN-29* Creat-1.3* Na-142 
K-3.6 Cl-105 HCO3-24 AnGap-17
___ 05:00PM BLOOD CK(CPK)-109
___ 05:00PM BLOOD cTropnT-<0.01
___ 12:00PM BLOOD cTropnT-<0.01
___ 04:00AM BLOOD cTropnT-<0.01
___ 04:00AM BLOOD cTropnT-<0.01
___ 12:00PM BLOOD CK-MB-3
___ 05:00PM BLOOD CK-MB-3
___ 12:00PM BLOOD CK(CPK)-104
___ 04:00AM BLOOD CK(CPK)-110
 
Brief Hospital Course:
In the ED, labs remarkable for a mild anemia at her baseline and 
a Cr within her baseline of 1.1-1.3. a BNP was normal. Cardiac 
enzymes were negative x 3. An ECG was without ischemic changes 
or significant changes from prior. CXR was also unremarkable.  
.  
On review of systems, she denies recent fevers, chills or 
rigors, nausea, vomiting, diarrhea, constipation, dysuria, 
exertional buttock or calf pain. All of the other review of 
systems were negative.  
.  
# CAD:: CE negative, no EKG changes, not likely cause of her 
current symptoms. Does have a h/o CAD by report although ___ 
MIBI unremarkable. Patient was continued asa, beta blocker, CCB, 
ace-i, statin.  She did not want to have a stress test and it 
was discussed with her cardiologist who felt she could have this 
as an outpatient.  She was scheduled for a follow up appointment 
with her cardiologist and an outpatient exercize stress test.
.  
# PUMP: last ECHO in ___ with preserved EF and diastolic 
dysfunction. Currently slightly dry on exam.  Patient continued 
on BP control with amlodipine, losartan, carvedilol. Held home 
lasix given increase in creatinine. Restarted on discharge.  
.  
# RHYTHM: NSR on ECG.  Patient monitored on telemetry without 
events/ 
.  
# ARF: creatinine 1.3, still within baseline of 1.1-1.3 but also 
elevated BUN. Did not appear dehydrated on exam. Rechecked 
creatinine was
. 
#. GERD: Patient thinks her current symptoms may be due to 
worsening GERD.  She had increased gas and had been eating a lot 
of spicy food.  She refused GI coctail and just wanted to 
continue on pepcid and change her diet.
. 
# Diabetes Mellitus (DM2), last A1C 7.1% on ___. Continued SSI, 
with good BS control. 
.  
# Hypertension: Patient continued on home amlodipine, 
carvedilol, losartan  
.  
# Hyperlipidemia: Continued fluvastatin.  
.  
# Glaucoma: continued alphagan eye drops  
.  
# osteoarthritis: continued tylenol and tramadol  
.  
# multichemical sensitivity: continued benadryl prn  
.  

 
Medications on Admission:
Amlodipine 10 mg daily  
Brimonidine 0.15 % Drops, 1 gtt ___ BID  
Carvedilol 25 mg BID  
Fluvastatin 80 mg daily  
Furosemide 40 mg daily  
Losartan 100 mg daily  
Metformin 500 mg BID  
Pepcid 40 mg daily  
Tramadol 50 mg BID  
Acetaminophen ___ mg q6hr  
Aspirin 325 mg daily  
Diphenhydramine HCl 25 mg BID  

 
Discharge Medications:
1. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

2. Brimonidine 0.15 % Drops Sig: One (1) Drop Ophthalmic BID (2 
times a day).  
3. Carvedilol 12.5 mg Tablet Sig: Two (2) Tablet PO BID (2 times 
a day).  
4. Losartan 50 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  
5. Tramadol 50 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
6. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
7. Fluvastatin 80 mg Tablet Sustained Release 24 hr Sig: One (1) 
Tablet Sustained Release 24 hr PO once a day.  
8. Furosemide 40 mg Tablet Sig: One (1) Tablet PO once a day.  
9. Metformin 500 mg Tablet Sig: One (1) Tablet PO twice a day.  
10. Pepcid 40 mg Tablet Sig: One (1) Tablet PO once a day.  
11. Diphenhydramine HCl 25 mg Capsule Sig: One (1) Capsule PO 
every twelve (12) hours as needed.  
12. Acetaminophen 500 mg Tablet Sig: ___ Tablets PO every six 
(6) hours as needed for pain.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Jaw Pain
Hand Pain
Hypertension

 
Discharge Condition:
stable

 
Discharge Instructions:
You came to the hospital with jaw pain and hand pain. We did an 
EKG and blood test which did not show any evidence of a heart 
attack.  We offered you a stress test while you were here but 
you did not want to have this done.  We also offered you more 
medications for your reflux and you didn't want those either. 
.
We made no changes to your medications.
.
You should follow up with your doctor and your cardiologist as 
below.
 
Followup Instructions:
___